US06555682B1
(7-Bromo-9,9-diprop-2-enylfluoren-2-yl)diphenylamine
A mixture of 2,7 dibromo-9,9-diprop-2-enylfluorene (40.4 g, 0.1 mol), diphenylamine (8.5 g, 0.05 mol), bis(dibenzylideneacetone)palladium(0) (0.3 g, 0.522 mmol), bis(diphenylphosphino)ferrocene (0.32 g, 0.57 mmol) sodium t-butoxide (5.6 g, 0.058 mol) and toluene (350 mL) was heated at 93° C. for 18 hours under nitrogen, and cooled. The mixture was diluted with toluene and water, and the toluene phase was dried and concentrated. The residue was chromatographed over 850 g of alumina. Elution with heptane led to the recovery of unreacted dibromo-diallylfluorene, 13.38 g, 33%, m.p. 134-137° C. Elution with 10% toluene-heptane yielded the desired product, m.p. 151-153° C., 11.74 g, 48% yield. Two successive recrystallizations from hexanes did not raise the m.p., 150.4-152.8° C. Mass Spec: m/z 491,493 (M+). IR (KBr): 3068, 2977,1639,1589,1489 cm−1. Anal. Calcd. for C31H26BrN; C, 75.61%; H, 5.32%; N, 2.84%; Br, 16.23%. Found: C, 75.56%; H, 5.27%; N, 2.68%. (Br- 17.1%). This reaction also produced some 2,7-bis(diphenylamino)-9,9-diallylfluorene, 1.09 g, m.p. 179-183° C. Mass Spec: m/z 580 (M+).

reactant | 2,7 dibromo-9,9-diprop-2-enylfluorene | 0.1 mol, 40.4 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CC=C)CC=C | C19H16Br2
reactant | diphenylamine | 0.05 mol, 8.5 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.522 mmol, 0.3 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | bis(diphenylphosphino)ferrocene | 0.57 mmol, 0.32 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | toluene | 350 mL | C1(=CC=CC=C1)C | C7H8
product | (7-Bromo-9,9-diprop-2-enylfluoren-2-yl)diphenylamine | 48% yield | BrC1=CC=C2C=3C=CC(=CC3C(C2=C1)(CC=C)CC=C)N(C1=CC=CC=C1)C1=CC=CC=C1 | C31H26BrN
